US03943124
3α-Hydroxy-2β-methoxy-17β-methoxycarbonyl-5α-androstan-11-one
2α,3α-Epoxy-17β-methoxycarbonyl-5α-androstan-11-one (500 mg.) in warm dry methanol (30 ml.) was treated with concentrated sulphuric acid (0.15 ml.). After 30 minutes the solution was poured into stirred water. The precipitated product was isolated, washed with water and dried over sodium hydroxide in vacuo to give fairly pure title compound (420 mg.) as a white powder; m.p. 170°-182°; [α]D + 68°,

reactant | 2α,3α-Epoxy-17β-methoxycarbonyl-5α-androstan-11-one | 500 mg | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]1(C2)C)=O)C(=O)OC | C21H30O4
reactant | methanol | 30 ml | CO | CH4O
reactant | sulphuric acid | 0.15 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 3α-Hydroxy-2β-methoxy-17β-methoxycarbonyl-5α-androstan-11-one | 420 mg | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)CC([C@@H]3[C@]2(C[C@@H]1OC)C)=O)C(=O)OC | C22H34O5
